US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-[1-(phenylsulfonyl)piperidin-4-yl]benzamide
A solution of N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(piperidin-4-yl)benzamide (0.05 g, 0.150 mmol) in tetrahydrofuran (1.246 ml) was treated with sodium hydride (0.018 g, 0.449 mmol) in 3 portions. The reaction was stirred at ambient temperature for 45 minutes and became a partially homogeneous solution. Benzenesulfonyl chloride (0.021 ml, 0.164 mmol) was added and the mixture was stirred for 16 hours. The reaction was treated with 0.1 mL water and was concentrated under a stream of nitrogen. Reverse-phase chromatography provided the title compound. 1H NMR (500 MHz, methanol-d4) δ ppm 8.73 (dd, J=7.0, 0.9 Hz, 1H), 8.15 (dd, J=2.2, 0.8 Hz, 1H), 7.97 (d, J=2.2 Hz, 1H), 7.89-7.75 (m, 5H), 7.73-7.59 (m, 3H), 7.46 (dd, J=7.0, 1.6 Hz, 1H), 7.37-7.31 (m, 2H), 4.75 (s, 2H), 3.96-3.88 (m, 2H), 2.67-2.52 (m, 1H), 2.48-2.37 (m, 2H), 1.95-1.72 (m, 4H); MS (ESI(+)) m/e 475 (M+H)+.

reactant | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-(piperidin-4-yl)benzamide | 0.150 mmol, 0.05 g | N=1C=CN2C1C=C(C=C2)CNC(C2=CC=C(C=C2)C2CCNCC2)=O | C20H22N4O
reactant | sodium hydride | 0.449 mmol, 0.018 g | [H-].[Na+]
reactant | Benzenesulfonyl chloride | 0.164 mmol, 0.021 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | water | 0.1 mL | O | H2O
solvent | tetrahydrofuran | 1.246 ml | O1CCCC1 | C4H8O
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-[1-(phenylsulfonyl)piperidin-4-yl]benzamide | N=1C=CN2C1C=C(C=C2)CNC(C2=CC=C(C=C2)C2CCN(CC2)S(=O)(=O)C2=CC=CC=C2)=O | C26H26N4O3S
